US08106194B2
A mixture of 8-(4-bromo-2,6-dimethyl-phenyl)-4-mercapto-2-methyl-pyrrolo[1,2-a]pyrimidine-6-carbonitrile (7.50 g), MeI (12.5 mL) in 1 M NaOH aqueous solution (100 mL) was stirred at room temperature for 1 h. The reaction mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to give crude 8-(4-bromo-2,6-dimethyl-phenyl)-2-methyl-4-methylsulfanyl-pyrrolo[1,2-a]pyrimidine-6-carbonitrile (5.75 g). This product was used in the next step without further purification.

reactant | 8-(4-bromo-2,6-dimethyl-phenyl)-4-mercapto-2-methyl-pyrrolo[1,2-a]pyrimidine-6-carbonitrile | 7.50 g | BrC1=CC(=C(C(=C1)C)C=1C=C(N2C1N=C(C=C2S)C)C#N)C | C17H14BrN3S
reactant | MeI | 12.5 mL | CI | CH3I
solvent | NaOH | 1 M, 100 mL | [OH-].[Na+]
product | 8-(4-bromo-2,6-dimethyl-phenyl)-2-methyl-4-methylsulfanyl-pyrrolo[1,2-a]pyrimidine-6-carbonitrile | 5.75 g | BrC1=CC(=C(C(=C1)C)C=1C=C(N2C1N=C(C=C2SC)C)C#N)C | C18H16BrN3S
